US08835449B2
Methyl 3-(2,4-dimethoxyphenyl)-3-oxopropanoate
To a three-necked round-bottomed flask equipped with a mechanical stirrer under N2 was added potassium tert-butoxide (1M in THF, 108.77 mL, 108.77 mmol), followed by a solution of 2,4-dimethoxyacetophenone (10.00 g, 54.38 mmol) and dimethyl carbonate (13.93 mL, 163.15 mmol) in methyl tert-butyl ether (50 mL) dropwise via an addition funnel over 1.5 hours. During addition, reaction turned from a initial cloudy yellow mixture to a thick red-orange slurry. Reaction mixture was stirred at room temperature overnight. Aqueous citric acid solution (0.5 N, 110.95 mL, 54.39 mmol) was added via addition funnel to quench the reaction. Exotherm was observed during quenching and solids dissolved to give an orange mixture. The layers were separated and the aqueous layer was extracted with methyl tert-butyl ether (2×25 mL). The combined organic extracts were concentrated to low volume. Heptane (50 mL) was added and brown solids precipitated. The resulting slurry was stirred under N2 overnight at room temperature. Solids were filtered and dried under N2 to give the title compound (11.05 g, 85% yield) as a beige colored powder.

reactant | potassium tert-butoxide | 108.77 mmol, 1M, 108.77 mL | CC(C)([O-])C.[K+]
reactant | 2,4-dimethoxyacetophenone | 54.38 mmol, 10.00 g | CC(=O)C1=C(C=C(C=C1)OC)OC | C10H12O3
reactant | dimethyl carbonate | 163.15 mmol, 13.93 mL | C(OC)(OC)=O | C3H6O3
reactant | citric acid | 54.39 mmol, 0.5 N, 110.95 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methyl tert-butyl ether | 50 mL | C(C)(C)(C)OC | C5H12O
product | Methyl 3-(2,4-dimethoxyphenyl)-3-oxopropanoate | 11.05 g, 85% yield | COC1=C(C=CC(=C1)OC)C(CC(=O)OC)=O | C12H14O5
